*$
*PART NUMBER: NJU7043
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.SUBCKT nju7043 OUT1 -IN1 +IN1 VSS +IN2 -IN2 OUT2 VDD
X_U1 +IN1 VSS -IN1 OUT1 VDD nju7043_s
X_U2 +IN2 VSS -IN2 OUT2 VDD nju7043_s
.ENDS nju7043
.SUBCKT nju7043_s  IN+ VSS IN- OUT VDD
M1         2 IN- 3 VDD MbreakPD3   
M2         2 IN+ 4 VDD MbreakPD2           
M3         VDD 1 2 VDD MbreakPD4       
M4         VDD 1 5 VDD MbreakPD          
M5         VDD 1 6 VDD MbreakPD       
M6         VDD 1 1 VDD MbreakPD          
M7         5 5 VSS VSS MbreakND    
M8         5 4 VSS VSS MbreakND            
M9         3 3 IN1 VSS MbreakND4  
M10        4 3 IN2 VSS MbreakND1         
M11        1 6 11 11 MbreakND    
M12        6 6 VSS VSS MbreakND3   
M13        7 5 VSS VSS MbreakND5     
M14        VDD 7 7 VDD MbreakPD           
M15        VDD 7 OUT VDD MbreakPD1       
M16        OUT 4 VSS VSS MbreakND2 
C1         OUT 4 90p
C2         OUT 6 7.2p
R1         11 VSS  1.522k         
R2         IN1 VSS 2.0k                  
R3         IN2 VSS  2.423k  
I1         0 IN-  0.505p  
I2         0 IN+  1.5p  
X_U1       VSS 3 DbreakZ 
X_U2       VSS 4 DbreakZ
.model MbreakND NMOS (LEVEL=3 L=6u W=3.2m VTO=0.2 RS=10E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakND1 NMOS (LEVEL=3 L=6u W=0.165 VTO=0.2 RS=10E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakND2 NMOS (LEVEL=3 L=6u W=27.4m VTO=0.2 RS=10E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 CGSO=1E-10 CGDO=300e-12
+ CBD=45.0E-12 RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakND3 NMOS (LEVEL=3 W=3.2m L=6u VTO=0.1 RS=10E-3
+ RD=10E-3 RDS=1E6 TOX=2.00E-6 RG=5 RB=1.00E-3 KP=1E-6)
.model MbreakND4 NMOS (LEVEL=3 L=6u W=0.165 VTO=0.2 RS=10E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 CGSO=1E-8 CBD=100.00E-12   
+ RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakND5 NMOS (LEVEL=3 L=6u W=0.165 VTO=0.2 RS=10E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakPD PMOS (LEVEL=3 L=6u W=0.23 VTO=-0.1 RS=10.0E-3
+ RD=10E-3 RDS=1.00E6 TOX=2.00E-6 RG=5 RB=1.0000E-3 KP=1E-6)
.model MbreakPD1 PMOS (LEVEL=3 L=6u W=0.4 VTO=-0.1 RS=10.0E-3
+ RD=10E-3 RDS=1E6 TOX=2E-6 CGDO=1.9E-8 RG=5 RB=1E-3 KP=1E-6)
.MODEL MbreakPD2 PMOS (LEVEL=3 L=6u W=0.00175 VTO=-.34 RS=10E-3
+ RD=10E-3 RDS=2.1E6 TOX=2E-6 CBD=50E-12 RG=5 RB=1E-3 KP=1E-5)
.MODEL MbreakPD3 PMOS (LEVEL=3 L=6u W=0.00177 VTO=-.34 RS=10E-3
+ RD=10E-3 RDS=1.0E6 TOX=2.0E-6 RG=5 RB=1.0000E-3 KP=1E-5)
.model MbreakPD4 PMOS (LEVEL=3 W=.23 L=0.3u VTO=-0.1 RS=10E-3
+ RD=10E-3 RDS=1E6 TOX=2E-6 CGDO=1.2e-10 RG=5 RB=1E-3 KP=1E-6)
.ENDS nju7043_s
.SUBCKT DbreakZ  A K
D1 A K DF
DZ A2 A DR
VZ K A2 1
.MODEL DF D 
.MODEL DR D 
.ENDS DbreakZ
*$
